US06320051B1
c) N-(3-Aminoprop-1-yl)-3,4-dichlorobenzylamine
To 1,3-diaminopropane (42 ml) in dry THF (200 ml) at 60° C. was added dropwise a solution of 3,4-dichlorobenzylchloride (13.9 ml, 100 mmol) in 90 ml dry THF over 3 h. The mixture was kept at 60° C. for an additional 15 min and then kept at 25° C. for 3 days. The precipitate was removed by filtration and the mother liquor concentrated in vacuo. The residue was partitioned between water and t-butyl methyl ether (TBME). To the organic layer was added aq. HCl (2 M) and the mixture was filtered. The layers were separated and NaOH was added to the aqueous layer with stirring. The resulting mixture was extracted with TBME and the organic extract was dried (Na2CO3), filtered, and the solvent evaporated to give the title compound as a slightly cloudy oil, (18.2 g, 78%). δH (CDCl3) 1.20 (br, s, ca. 3H), 1.58-1.71 (m, 2H), 2.67 (t, J=6.9, 2H), 2.78 (t, J=6.8, 2H), 3.74 (s, 2H), 7.15 (dd, J=8.2, 2.0, 1H), 7.37 (d, J=8.2, 1H), 7.43 (d, J=1.9, 1H); MS (ES+) 233 (MH+, 13%), 159 (100).

reactant | 1,3-diaminopropane | 42 ml | NCCCN | C3H10N2
reactant | 3,4-dichlorobenzylchloride | 100 mmol, 13.9 ml | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | N-(3-Aminoprop-1-yl)-3,4-dichlorobenzylamine | NCCCNCC1=CC(=C(C=C1)Cl)Cl | C10H14Cl2N2
